US07977358B2
B] 5-Methyl-3-trifluoromethyl-1-(3-trifluoromethyl-phenyl)-1H-pyrazole-4-carboxylic acid ethyl ester
A solution of sodium ethanolate 21% (in ethanol, 0.75 ml, 2 mmol) was added to ethyl acetoacetate (0.25 ml, 1.97 mmol) in 3 ml ethanol at 0° C. After 1 h at 0° C., a solution of (2Z or E)-1-[3-(trifluoromethyl)phenyl]-2-(2,2,2-trifluoro-1-{[(4-methylphenyl)sulfonyl]-oxy}ethylidene)hydrazine (254 mg, 0.60 mmol) in 5 ml ethanol was added. Stirring was continued for 18 h at room temperature and then the yellow solution was diluted with EtOAc washed with water and brine. The combined organic layers were dried over magnesium sulfate and evaporated. Column chromatography (EtOAc:n-heptane 1:3) delivered the title compound as light yellow solid (107 mg, 48%). MS: 367.3 (MH+).

reactant | sodium ethanolate | 2 mmol, 0.75 ml | C(C)[O-].[Na+]
reactant | ethyl acetoacetate | 1.97 mmol, 0.25 ml | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | 1-[3-(trifluoromethyl)phenyl]-2-(2,2,2-trifluoro-1-{[(4-methylphenyl)sulfonyl]-oxy}ethylidene)hydrazine | 0.60 mmol, 254 mg | FC(C=1C=C(C=CC1)NN=C(C(F)(F)F)OS(=O)(=O)C1=CC=C(C=C1)C)(F)F | C16H12F6N2O3S
solvent | ethanol | 3 ml | C(C)O | C2H6O
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-Methyl-3-trifluoromethyl-1-(3-trifluoromethyl-phenyl)-1H-pyrazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=NN(C1C)C1=CC(=CC=C1)C(F)(F)F)C(F)(F)F | C15H12F6N2O2
